US06441189B1
ethyl 4-(4-bromophenoxy)-3-oxobutanoate
A solution of 50% (w/w) NaOH in water (188 mL) in DMSO (800 mL) was stirred at room temperature until a precipitate formed, treated dropwise with a solution of 4-bromophenol (101.2 g) in DMSO (200 mL) over 25 minutes, stirred for 25 minutes, treated with ethyl 4-chloro-3-oxobutanoate (102.2 g) over 40 minutes, adjusted to pH 3 with 6M HCl, treated with water (200 mL) over 12 minutes, stirred for 5 hours, treated with water (150 mL) over 20 minutes, and filtered. The solid was washed with sequentially with water and 40% ethanol/water and dried under vacuum (100 mm Hg) at 50° C. with a nitrogen bleed to provide 119.8 g of the desired product. 1H NMR (300 MHz, CDCl3) δ7.40 (m, 2H), 6.79 (m, 2H), 4.65 (s, 2H), 4.20 (q, 2H, J=7 Hz), 3.62 (s, 2H), 1.26 (t, 3H, J=7Hz).

reactant | NaOH | [OH-].[Na+]
reactant | 4-bromophenol | 101.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | ethyl 4-chloro-3-oxobutanoate | 102.2 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | HCl | 6M | Cl | ClH
solvent | water | 188 mL | O | H2O
solvent | DMSO | 800 mL | CS(=O)C | C2H6OS
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
solvent | water | 150 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | ethyl 4-(4-bromophenoxy)-3-oxobutanoate | 119.8 g | BrC1=CC=C(OCC(CC(=O)OCC)=O)C=C1 | C12H13BrO4
